US07915443B2
(S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-(1H-pyrazol-4-ylethynyl)nicotinamide
In a manner similar to that describe in Example 431 a mixture of (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide and 4-iodopyrazole were reacted to give the title compound as a white film (15 mg, 17%).

reactant | (S)-5-ethynyl-N-[methyl(oxo)phenyl-λ6-sulfanylidene]nicotinamide | C(#C)C=1C=NC=C(C(=O)N=[S@](C2=CC=CC=C2)(=O)C)C1 | C15H12N2O2S
reactant | 4-iodopyrazole | IC=1C=NNC1 | C3H3IN2
product | (S)-N-[methyl(oxo)phenyl-λ6-sulfanylidene]-5-(1H-pyrazol-4-ylethynyl)nicotinamide | C[S@@](=NC(C1=CN=CC(=C1)C#CC=1C=NNC1)=O)(C1=CC=CC=C1)=O | C18H14N4O2S
